US05227544
Accordingly, it has been discovered that if water is added to the n-butyraldehyde feed to the distillation column in an amount effective to hydrolyze the isobutyraldehyde oligomers to the monomeric form during distillation, they can be stripped from the n-butyraldehyde, thereby reducing the amount of isobutyraldehyde which reacts to form 2-ethyl-4-methyl-pentenal during aldol condensation and subsequent hydrogenation of the 2-ethyl-4-methyl-pentenal to 2-ethyl-4-methyl pentanol during the hydrogenation stage. By this method the content of 2-ethyl-4-methyl-pentanol in the final product can be substantially reduced; typically from a range of from about 0.2 to about 0.4 wt. % without the water addition to less than 0.2 wt. %, preferably to within a range of from about 0.08 to about 0.1 wt. % with the water addition, based on 2-ethylhexanol. The degree of improvement will vary with the amount of water added, with increasing amounts of water tending to give increasing reductions in the amount of 2-ethyl-4-methyl-pentanol in the 2-ethylhexanol.

reactant | n-butyraldehyde | C(CCC)=O | C4H8O
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
solvent | water | O | H2O
product | 2-ethyl-4-methyl-pentenal | C(C)C(C=O)=CC(C)C | C8H14O
